US09388197B2
A.1.10.4. (2-(Triisopropylsilyl)-5,6-dihydrofuro[2,3-d]thiazol-6-yl)methanol
At −78° C., a soln. of n-BuLi in hexanes (2.18 M, 16.7 mL, 36.4 mmol) was added over 30 min to a soln. of 5-bromo-4-(oxiran-2-ylmethoxy)thiazole (7.17 g, 30.4 mmol) in THF (564 mL). The mixture was stirred at −78° C. for 2 h, then, TIPSCl (6.63 mL, 31.0 mmol) was added, the mixture was allowed to warm to RT and stirred at RT for 30 min. Subsequently, the mixture was cooled to −78° C. and treated with a soln. of n-BuLi in hexanes (2.18 M, 13.9 mL, 30.4 mmol). The mixture was stirred at 0° C. for 2 h, then, it was quenched with aq. sat. NaHCO3 and extracted with EtOAc. The comb. org. layers were washed with brine, dried over MgSO4, and conc. in vacuo. The residue was purified by means of CC (100 g KP-Sil, EtOAc/Hept 5-50%), followed by CC (5-50% EtOAc/Hept) to provide a yellow oil.

reactant | n-BuLi | [Li]CCCC
reactant | 5-bromo-4-(oxiran-2-ylmethoxy)thiazole | 30.4 mmol, 7.17 g | BrC1=C(N=CS1)OCC1OC1 | C6H6BrNO2S
reactant | TIPSCl | 31.0 mmol, 6.63 mL | CC(C)[Si](C(C)C)(C(C)C)Cl | C9H21ClSi
solvent | THF | 564 mL | C1CCOC1 | C4H8O
product | (2-(Triisopropylsilyl)-5,6-dihydrofuro[2,3-d]thiazol-6-yl)methanol | C(C)(C)[Si](C=1SC2=C(N1)OCC2CO)(C(C)C)C(C)C | C15H27NO2SSi
